* Inverting amp with a real finite-gain op-amp.
Vin vi 0 PULSE(-1 1 0 20m 1u 1u 20m)

R1 vi n1 1k
RF n1 vo 10k

* Finite open-loop gain (noise gain here is 11, so Aol=200 gives a clearly
* visible ~5% closed-loop gain error vs the ideal case).
* nodal_model: FINITEGAIN OPAMP (Aol=200)
Eop vo 0 0 n1 200 ; nodal_model: FINITEGAIN


Escaled vo_scaled 0 value = {V(vo)*0.1} ; netlist_skip
.tran 0 80m 0 20.0u
.wav "vin.wav" 32 48k V(vi)
.wav "vout.wav" 32 48k V(vo_scaled)
.options plotwinsize=0
.backanno
.end
